US03998961
A mixture of 63 g (0.25 mol) 2,5-dichlorothien-3-yl-sulfonyl chloride, 0.5 g sulfur monochloride and 25 g sulfuryl chloride was heated under reflux. To the refluxing reaction was then added dropwise 0.5 g aluminum trichloride in 25 g sulfuryl chloride. The reaction mixture was then heated under reflux for 3 hours, cooled diluted with 400 ml cold water and cooled, with methylene chloride. The methylene chloride extracts were washed with water, saturated aqueous sodium bicarbonate, dried over magnesium sulfate and stripped to give 62 g of 2,4,5-trichlorothien-3-ylsulfonyl chloride, which crystallized from hexane as a solid, m.p. 55° C.

reactant | 2,5-dichlorothien-3-yl-sulfonyl chloride | 0.25 mol, 63 g | ClC=1SC(=CC1S(=O)(=O)Cl)Cl | C4HCl3O2S2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | sulfuryl chloride | 25 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | water | 400 ml | O | H2O
catalyst | sulfur monochloride | 0.5 g | [S]Cl | ClS
catalyst | aluminum trichloride | 0.5 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | sulfuryl chloride | 25 g | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 2,4,5-trichlorothien-3-ylsulfonyl chloride | 62 g | ClC=1SC(=C(C1S(=O)(=O)Cl)Cl)Cl | C4Cl4O2S2
